US07632875B2
2-Bromo-2-methyl-propionic acid 2,4-dinitro-phenyl ester
2,4-Dinitrophenol (9.6 gm, 52 mmol) in 80 ml anhydrous tetrahydrofuran was placed under a nitrogen atmosphere and cooled in an icebath. To this was added triethylamine (5.80 g, 57 mmol) followed by the dropwise addition of bromoisobutyryl bromide (15.6 g, 67 mmol) in 20 ml anhydrous tetrahydrofuran over 5 min. After stirring for 4 h, the solids were filtered off and the solution concentrated, and then recrystallized from 100 ml methanol to give 15.8 g yellow solid, >99% pure by HPLC.

reactant | 2,4-Dinitrophenol | 52 mmol, 9.6 gm | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | triethylamine | 57 mmol, 5.80 g | C(C)N(CC)CC | C6H15N
reactant | bromoisobutyryl bromide | 67 mmol, 15.6 g | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Bromo-2-methyl-propionic acid 2,4-dinitro-phenyl ester | 15.8 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC(C(C)(C)Br)=O | C10H9BrN2O6
